US04382090
Following the procedure of Example 5, a stirred solution of 1.38 g. of 2-(2-dimethylaminomethyl-5-methyl-4-thiazolylmethylthio)ethylamine in 10 ml. of methanol was treated with N-methyl-1-methylthio-2-nitroethyleneamine. The reaction mixture was kept at room temperature overnight by which time all solids had dissolved. Thin layer chromatography (silica-10:10:1 ethyl acetate-methanol-ammonium hydroxide) indicated substantially a single product. The reaction mixture was concentrated by evaporation of the methanol and the resulting gummy yellow residue was triturated with several portions of cold ether, thus providing an off-white gum. Repeated trituration with cold 1,2-dimethoxyethane yielded N-2-(2-dimethylaminomethyl-5-methyl-4-thiazolylmethylthio)ethyl-N'-methyl-2-nitro-1,1-ethenediamine formed in the above reaction melting at about 104°-106° C.

reactant | 2-(2-dimethylaminomethyl-5-methyl-4-thiazolylmethylthio)ethylamine | CN(C)CC=1SC(=C(N1)CSCCN)C | C10H19N3S2
reactant | methanol | CO | CH4O
reactant | N-methyl-1-methylthio-2-nitroethyleneamine | CN1C(C1SC)[N+](=O)[O-] | C4H8N2O2S
reactant | ethyl acetate methanol ammonium hydroxide | C(C)(=O)OCC.CO.[OH-].[NH4+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | N-2-(2-dimethylaminomethyl-5-methyl-4-thiazolylmethylthio)ethyl-N'-methyl-2-nitro-1,1-ethenediamine | CN(C)CC=1SC(=C(N1)CSCCNC(=C[N+](=O)[O-])NC)C | C13H23N5O2S2
